US07230007B2
14.19 cm3 (100.7 mmol) of trifluoroacetic anhydride were added to 4.94 g (20.14 mmol) of 1-(quinolin-2-yl)-1H-pyrrolo[2,3-b]pyridine in 60 cm3 of dimethylformamide under an argon atmosphere at a temperature in the region of 20° C. The reaction mixture was stirred at a temperature in the region of 20° C. for 12 h, 5.68 cm3 (40 mmol) of trifluoroacetic anhydride were added and stirring was continued at a temperature in the region of 20° C. for 60 h. A third portion of 5.68 cm3 (40 mmol) of trifluoroacetic anhydride was added and the reaction medium was stirred at a temperature in the region of 20° C. for 60 h. The reaction mixture was subsequently concentrated to dryness under reduced pressure (2.7 kPa) at a temperature in the region of 60° C. The residue was rapidly added to 100 cm3 of water, and sodium hydrogencarbonate was gradually added until a pH of 7–8 was reached. The solid that formed was filtered off, then rinsed with 4 times 25 cm3 of water and dried in a desiccator under reduced pressure (2.7 kPa) at a temperature in the region of 20° C. 5.92 g of 3-trifluoroacetyl-1-(quinolin-2-yl)-1H-pyrrolo[2,3-b]pyridine were thus obtained in the form of a brown solid melting at 198° C. which was used directly in the following stage.

reactant | trifluoroacetic anhydride | 100.7 mmol, 14.19 cm3 | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 1-(quinolin-2-yl)-1H-pyrrolo[2,3-b]pyridine | 20.14 mmol, 4.94 g | N1=C(C=CC2=CC=CC=C12)N1C=CC=2C1=NC=CC2 | C16H11N3
reactant | trifluoroacetic anhydride | 40 mmol, 5.68 cm3 | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | trifluoroacetic anhydride | 40 mmol, 5.68 cm3 | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dimethylformamide | 60 cm3 | CN(C=O)C | C3H7NO
product | 3-trifluoroacetyl-1-(quinolin-2-yl)-1H-pyrrolo[2,3-b]pyridine | 5.92 g | FC(C(=O)C1=CN(C2=NC=CC=C21)C2=NC1=CC=CC=C1C=C2)(F)F | C18H10F3N3O
